US09427501B2
Non-Saturated Coating Composition with THF/IPA Solvent
Estradiol, polyethylene-co-vinyl acetate (PEVA) (33% vinyl acetate), and poly-n-butyl methacrylate (PBMA) were combined in equal weight proportions in a solution that was 90% tetrahydrofuran (THF) and 10% isopropyl alcohol (IPA). The resulting solution had a total solids concentration of 40 mg/ml (33% PEVA/33% PBMA/33% estradiol). The resulting solution was below the saturation point for estradiol in a solvent of 90% THF/10% IPA at ambient temperature (approximately 21-22° C.).

reactant | Estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | THF | O1CCCC1 | C4H8O
product | THF IPA | C1CCOC1.CC(C)O | InChI=1S/C4H8O.C3H8O/c1-2-4-5-3-1;1-3(2)4/h1-4H2;3-4H,1-2H3
